US06380218B1
3-(2-Chlorophenyl)-1-[2-(4-fluorophenoxy)-3-pyridinyl]-1-propanone
A solution of 226 mg (0.496 mmol) a-[(2-Chlorophenyl)methyl]-2-(4-fluorophenoxy)-β-oxo-3-pyridinepropanoic Acid t-Butyl Ester in 5 mL of trifluoroacetic acid was stirred at rt for 4 h. The mixture was evaporated, and the residue was diluted with 5 mL of toluene, heated to reflux for 2 h, and evaporated. The residue was dissolved in 100 mL of EtOAc, washed successively with saturated aqueous sodium hydrogencarbonate solution (1×50 mL) and brine (1×50 mL), dried (Na2SO4), and and evaporated to 125 mg of an oil. Purification by flash chromatography using 40% ether-hexane as eluant yield 120 mg (68% yield) of the title compound as a colorless oil. 1H NMR (CDCl3) d 3.20 (2H, t, J=8 Hz), 3.49 (2H, t, J =8 Hz), 7.06-7.32 (9H, m), 8.19 (1H, dd, J=2.7 Hz), 8.25 (1H, dd, J=2.5 Hz); Thermospray MS (m/e) 356,358 (M++1).

reactant | a-[(2-Chlorophenyl)methyl]-2-(4-fluorophenoxy)-β-oxo-3-pyridinepropanoic Acid t-Butyl Ester | 0.496 mmol, 226 mg | C(C)(C)(C)OC(C(C(C=1C(=NC=CC1)OC1=CC=C(C=C1)F)=O)CC1=C(C=CC=C1)Cl)=O | C25H23ClFNO4
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-(2-Chlorophenyl)-1-[2-(4-fluorophenoxy)-3-pyridinyl]-1-propanone | yield 120 mg, 68% yield | ClC1=C(C=CC=C1)CCC(=O)C=1C(=NC=CC1)OC1=CC=C(C=C1)F | C20H15ClFNO2
